US07994336B2
a) Synthesis of 3-chloro-2-oxo-3-p-tolyl-propionic acid methylester
This compound was synthesised as 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester but using 4-methylbenzaldehyde instead 4-fluorobenzaldehyde. 1H-NMR (CDCl3): δ=2.35 (s, 3H); 3.83 (s, 3H); 6.13 (s, 1H); 7.21 (d, 2H); 7.28 (d, 2H).

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | 4-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-chloro-2-oxo-3-p-tolyl-propionic acid methylester | COC(C(C(C1=CC=C(C=C1)C)Cl)=O)=O | C11H11ClO3
